US07326791B2
rac.-N-[1-(5-chloro-1-methyl-1H-benzimidazol-2-yl)ethyl]-3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzamide
Prepared analogously to Example 1g from 3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzoic acid, TBTU, diisopropylethylamine, and rac.-1-(5-chloro-1-methyl-1H-benzimidazol-2-yl)ethylamine in dimethylformamide. Yield: 71%; Rf value: 0.47 (silica gel; dichloromethane/ethanol=9:1); C23H25ClN4O2 (424.93); mass spectrum: (M+H)+=425/427 (chlorine isotope) and (M−H)−=423/425 (chlorine isotope).

reactant | 3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzoic acid | CC=1C=C(C(=O)O)C=CC1C(=O)N1CCCC1 | C13H15NO3
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | rac.-1-(5-chloro-1-methyl-1H-benzimidazol-2-yl)ethylamine | ClC1=CC2=C(N(C(=N2)C(C)N)C)C=C1 | C10H12ClN3
reactant | chlorine | ClCl | Cl2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | dichloromethane ethanol | ClCCl.C(C)O
product | rac.-N-[1-(5-chloro-1-methyl-1H-benzimidazol-2-yl)ethyl]-3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzamide | Yield: 71% | ClC1=CC2=C(N(C(=N2)C(C)NC(C2=CC(=C(C=C2)C(=O)N2CCCC2)C)=O)C)C=C1 | C23H25ClN4O2
